US08115006B2
(2) Preparation of 3-bromo-N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxamide
0.18 g of potassium tert-butoxide was added to a mixed solution comprising 0.23 g of 2-amino-5-chloro-N-(1-cyclopropylethyl)benzamide, 0.30 g of phenyl 3-bromo-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate and 5 ml of dimethyl sulfoxide, followed by reaction at room temperature for 1 hour. The reaction liquid was slowly added to diluted hydrochloric acid, the mixed liquid was subjected to extraction with ethyl acetate, and the organic layer was washed with a saturated sodium hydrogen carbonate aqueous solution and with a sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=8/2 to 7.5/2.5) to obtain 0.16 g of the desired product.

reactant | potassium tert-butoxide | 0.18 g | CC(C)([O-])C.[K+]
reactant | 2-amino-5-chloro-N-(1-cyclopropylethyl)benzamide | 0.23 g | NC1=C(C(=O)NC(C)C2CC2)C=C(C=C1)Cl | C12H15ClN2O
reactant | phenyl 3-bromo-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate | 0.30 g | BrC1=NN(C(=C1)C(=O)OC1=CC=CC=C1)C1=NC=CC=C1Cl | C15H9BrClN3O2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 3-bromo-N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxamide | 0.16 g | BrC1=NN(C(=C1)C(=O)NC1=C(C=C(C=C1)Cl)C(NC(C)C1CC1)=O)C1=NC=CC=C1Cl | C21H18BrCl2N5O2
